US07902252B2
2.80. Synthesis of 4-(3-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (54)
The title compound was synthesized from methyl 4-(3-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.075 g, 0.274 mmol) and lithium hydroxide (0.053 g, 1.37 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound: 30 mg, 42% yield. 1H NMR (400 MHz, METHANOL-d) δ ppm 2.05-2.15 (m, 1H), 2.50-2.60 (m, 1H), 2.60-2.65 (m, 2H), 2.75-2.85 (m, 2H), 3.21-3.28 (m, 1H), 6.30 (s, 1H), 6.85-6.95 (m, 2H), 7.00-7.05 (d, 1H), 7.25-7.35 (q, 1H); 19F NMR δ ppm (m, −116.7); LCMS-MS (ESI−) 258.0 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.274 mmol, 0.075 g | FC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C16H16FNO2
reactant | lithium hydroxide | 1.37 mmol, 3 mL, 0.053 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C15H14FNO2
